US08466176B2
To a stirred solution of N-({6-[(hydroxyimino)methyl]pyridin-2-yl}methoxy)-1-(1-methyl-1H-tetrazol-5-yl)-1-phenylmethanimine (0.2 g, 0.593 mmol, 1 eq.) in 2.5 ml of dry DMF, was added NaH (0.024 g, 0.623 mmol, 1.05 eq.) in one portion. After 10 mins, 1-iodocyclohexane (0.130 g, 0.623 mmol, 1.05 eq.) was added rapid dropwise. Stirring was continued for 20 hrs and warmed at 45° C. for 4 hrs. “brine” was added and the reaction was extracted with EtOAc (2×75 ml). The combined organic layers were washed with water (2×), dried over MgSO4 and evaporated. The residue was purified by chromatography on silica gel to give N-[(6-{[(cyclohexyloxy)imino]methyl}pyridin-2-yl)methoxy]-1-(1-methyl-1H-tetrazol-5-yl)-1-phenylmethanimine (0.107 g, 41% yield) as a colourless viscous oil.

reactant | N-({6-[(hydroxyimino)methyl]pyridin-2-yl}methoxy)-1-(1-methyl-1H-tetrazol-5-yl)-1-phenylmethanimine | 0.593 mmol, 0.2 g, 1 eq. | ON=CC1=CC=CC(=N1)CON=C(C1=CC=CC=C1)C1=NN=NN1C | C16H15N7O2
reactant | NaH | 0.623 mmol, 0.024 g, 1.05 eq. | [H-].[Na+]
reactant | 1-iodocyclohexane | 0.623 mmol, 0.130 g, 1.05 eq. | IC1CCCCC1 | C6H11I
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | N-[(6-{[(cyclohexyloxy)imino]methyl}pyridin-2-yl)methoxy]-1-(1-methyl-1H-tetrazol-5-yl)-1-phenylmethanimine | 0.107 g, 41% yield | C1(CCCCC1)ON=CC1=CC=CC(=N1)CON=C(C1=CC=CC=C1)C1=NN=NN1C | C22H25N7O2
